US07268145B2
Sodium hydride (104 mg, 2.86 mmol) and tetrahydrofuran (16 ml) were added to a previously dried reaction vessel. To the mixture were added 2-(benzimidazole-2-ylthiomethyl)benzoic acid methyl ester (428 mg, 1.43 mmol) and 2-(bromomethyl)benzoic acid t-butyl ester (466 mg, 3.46 mmol), and then the mixture was stirred at 60° C. for 50 minutes. Water was added thereto, followed by extraction with ethyl acetate. After the ethyl acetate phase was dried with anhydrous sodium sulfate, it was concentrated, and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=3:1) to obtain 2-((1-((2-((t-butyl)oxycarbonyl)phenyl)methyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester (495 mg, yield 71%).

reactant | Sodium hydride | 2.86 mmol, 104 mg | [H-].[Na+]
reactant | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
reactant | 2-(benzimidazole-2-ylthiomethyl)benzoic acid methyl ester | 1.43 mmol, 428 mg | COC(C1=C(C=CC=C1)CSC=1NC2=C(N1)C=CC=C2)=O | C16H14N2O2S
reactant | 2-(bromomethyl)benzoic acid t-butyl ester | 3.46 mmol, 466 mg | C(C)(C)(C)OC(C1=C(C=CC=C1)CBr)=O | C12H15BrO2
solvent | Water | O | H2O
product | 2-((1-((2-((t-butyl)oxycarbonyl)phenyl)methyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester | 495 mg, yield 71% | COC(C1=C(C=CC=C1)CSC1=NC2=C(N1CC1=C(C=CC=C1)C(=O)OC(C)(C)C)C=CC=C2)=O | C28H28N2O4S
